US04297346
Preparation of benzyloxycarbonyl propyl leucine
12.5 g (0.05 mol) of Cbz-Pro are dissolved in 70 cc of THF and 7.5 cc (0.05 mol) of Et3N, and then cooled to -10° C. 6.8 g (0.05 mol) of isobutyl chloroformate in 30 cc of THF are added dropwise, whereafter the mixture is stirred for 20 minutes at <10° C. A solution of 7.9 g (0.06 mol) of Leu and 12.6 cc (0.08 mol) of Et3N in 65 cc of water are added to the mixture and the reaction is allowed to continue for 90 minutes, allowing the temperature to rise to 20° C. The reaction mixture is acidified with 6N-HCl, the THF is removed under vacuum and the solid which is obtained is dissolved in 20 cc of AcOH and then precipitated with 200 cc of water. Recrystallisation takes place in CCl4. The product indicated in the heading is obtained, this having two melting points: either 118° C. or 136° C.

reactant | Cbz-Pro | 0.05 mol, 12.5 g | N1([C@H](C(=O)O)CCC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
reactant | Et3N | 0.05 mol, 7.5 cc | CCN(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.05 mol, 6.8 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | Leu | 0.06 mol, 7.9 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | Et3N | 0.08 mol, 12.6 cc | CCN(CC)CC | C6H15N
reactant | HCl | Cl | ClH
solvent | THF | 70 cc | C1CCOC1 | C4H8O
solvent | THF | 30 cc | C1CCOC1 | C4H8O
solvent | water | 65 cc | O | H2O
solvent | AcOH | 20 cc | CC(=O)O | C2H4O2
product | benzyloxycarbonyl propyl leucine | C(C1=CC=CC=C1)OC(=O)N([C@@H](CC(C)C)C(=O)O)CCC | C17H25NO4
